US05498630
1-[3-Fluoro-2,6-bis(trimethylsilyl)benzoyl]pyrrolidine
A solution of 1.3M s-BuLi in cyclohexane (23.91 mL, 31.1 mmol) was added to an ether/liquid N2 cooled (-90° C.) solution of TMEDA (3.97 g, 34.2 mmol) in THF (40 mL), followed by the addition of a solution of N-(3-fluorobenzoyl)pyrrolidine (5.0 g, 25.9 mmol) in a minimum volume of THF. The resulting reaction mixture was stirred at -90° C. for 15 min, then TMSCl (6.75 g, 62.2 mmol) was added in a single portion. The reaction was warmed to RT, quenched with dilute aq citric acid, then was extracted with ether (3×). The combined ether extracts were dried (MgSO4), concentrated, and purified by HPLC with 3:7 EtOAc/hexanes to afford 0.45 g of the title compound as an oil, a 45% yield, which solidified on standing to a white solid. m.p. 97°-100° C.

reactant | s-BuLi | 1.3M | [Li]C(C)CC
reactant | cyclohexane | 31.1 mmol, 23.91 mL | C1CCCCC1 | C6H12
reactant | TMEDA | 34.2 mmol, 3.97 g | CN(C)CCN(C)C | C6H16N2
reactant | N-(3-fluorobenzoyl)pyrrolidine | 25.9 mmol, 5.0 g | FC=1C=C(C(=O)N2CCCC2)C=CC1 | C11H12FNO
reactant | TMSCl | 62.2 mmol, 6.75 g | C[Si](C)(C)Cl | C3H9ClSi
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 1-[3-Fluoro-2,6-bis(trimethylsilyl)benzoyl]pyrrolidine | 0.45 g, 45% yield | FC=1C(=C(C(=O)N2CCCC2)C(=CC1)[Si](C)(C)C)[Si](C)(C)C | C17H28FNOSi2
